US09416135B2
To a solution of tert-butyl(2-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-2-isobutyryl-6-(methylsulfonyl)-1H-indol-1-yl)ethyl)carbamate (250 mg, 0.37 mmol) in CH2Cl2 (5.0 mL) was added trifluoroacetic acid (1.0 mL) and the mixture was allowed to stir at rt for 1 h. The excess amount of TFA was removed by azeotropic evaporation with toluene under reduced pressure. The residue was redissolved in CH2Cl2 (5 mL) and Et3N (0.5 mL) was added. The reaction mixture was stirred at rt for 45 min and concentrated in vacuo. The residue was purified by flash chromatography over silica gel eluting with CH2Cl2/methanol (98/2) to provide 8-(((tert-butyldiphenylsilyl)oxy)methyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indole (135 mg, 65% yield). LC-MS m/z 559 [M+H]+.

reactant | tert-butyl(2-(5-(((tert-butyldiphenylsilyl)oxy)methyl)-2-isobutyryl-6-(methylsulfonyl)-1H-indol-1-yl)ethyl)carbamate | 0.37 mmol, 250 mg | C(C)(C)(C)OC(NCCN1C(=CC2=CC(=C(C=C12)S(=O)(=O)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C(C(C)C)=O)=O | C37H48N2O6SSi
reactant | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
product | 8-(((tert-butyldiphenylsilyl)oxy)methyl)-1-isopropyl-7-(methylsulfonyl)-3,4-dihydropyrazino[1,2-a]indole | 135 mg, 65% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=2C=C3N(C2C=C1S(=O)(=O)C)CCN=C3C(C)C | C32H38N2O3SSi
